US09351974B2
(7R)-2-chloro-8-cyclohexyl-7-methyl-5-(pyridin-3-yl)-7,8-dihydropteridin-6(5H)-one was prepared from (7R)-2-chloro-8-cyclohexyl-7-methyl-7,8-dihydropteridin-6(5H)-one and pyridin-3-ylboronic acid, according to procedures similar to step d for the preparation of Example 18. Examples 304 was prepared according to procedures similar to the preparation of Example 303, using corresponding starting materials and intermediates.

reactant | (7R)-2-chloro-8-cyclohexyl-7-methyl-7,8-dihydropteridin-6(5H)-one | ClC1=NC=2N([C@@H](C(NC2C=N1)=O)C)C1CCCCC1 | C13H17ClN4O
reactant | pyridin-3-ylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | (7R)-2-chloro-8-cyclohexyl-7-methyl-5-(pyridin-3-yl)-7,8-dihydropteridin-6(5H)-one | ClC1=NC=2N([C@@H](C(N(C2C=N1)C=1C=NC=CC1)=O)C)C1CCCCC1 | C18H20ClN5O
